US09260425B2
Following the procedures of Example 144, and starting with 3-(6-Fluoropyridin-2-yl)-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine and methyl 4-(tert-butoxycarbonylamino)piperidine-4-carboxylate were reacted and purified via silica gel chromatography using a gradient of EtOAc in heptane to afford 241 mg (67%) of Methyl 4-(tert-butoxycarbonylamino)-1-(6-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidine-4-carboxylate. ESI MS m/z 614.2 (M+1).

reactant | 3-(6-Fluoropyridin-2-yl)-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | FC1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)C2OCCCC2 | C21H18FN5O
reactant | methyl 4-(tert-butoxycarbonylamino)piperidine-4-carboxylate | C(C)(C)(C)OC(=O)NC1(CCNCC1)C(=O)OC | C12H22N2O4
product | Methyl 4-(tert-butoxycarbonylamino)-1-(6-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidine-4-carboxylate | 241 mg, 67% | C(C)(C)(C)OC(=O)NC1(CCN(CC1)C1=NC(=CC=C1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)C2OCCCC2)C(=O)OC | C33H39N7O5
